US04061761
a. 4'-Chloro-3'-dimethylsulfamoylacetophenone
To a stirred mixture of 10 ml of 40% dimethyl amine solution and 60 ml of methanol, there were added, portionswise, 5.1 g of 4'-chloro-3'-chlorosulfonylacetophenone, so that the reaction temperature did not exceed 30° C. The reaction mixture was stirred for 3 hours at room temperature and 15 minutes at 60° C. After cooling, the reaction mixture was poured into 200 ml of water and the crystals were filtered off. Melting point: 108° C.

reactant | dimethyl amine | 10 ml | CNC | C2H7N
reactant | methanol | 60 ml | CO | CH4O
reactant | 4'-chloro-3'-chlorosulfonylacetophenone | 5.1 g | ClC1=C(C=C(C=C1)C(C)=O)S(=O)(=O)Cl | C8H6Cl2O3S
solvent | water | 200 ml | O | H2O
product | 4'-Chloro-3'-dimethylsulfamoylacetophenone | ClC1=C(C=C(C=C1)C(C)=O)S(N(C)C)(=O)=O | C10H12ClNO3S
